Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / Advil / antibiotics - due to C. diff -Must use oral 
vancomycin with ALL ABX
 
Attending: ___.
 
Chief Complaint:
concern for seizure vs. syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ speaking with hx of HTN, C.diff colitis, 
chronic sterile pyuria, and lumbar spinal stenosis who presented 
after 2 episodes of seizure-like activity since ___. 
History obtained partially from patient, but mainly from 
granddaughter and friend present in room.

Pt in USOH until ___ afternoon. Had late lunch and went to 
park with family afterwards. Soon after getting out of car, was 
standing up and had ?rhythmic jerking of her UE and ___ with 
apparent LOC. Did not fall (has significant help with ambulating 
due to lumbar spinal stenosis). Lasted ~2min and then woke up 
with no residual cognitive or motor deficits. Not on any 
anti-hypertensives at home that she could have taken prior. Does
take tramadol and duloxetine in AM for lumbar spinal stenosis. 
Second episode occurred ___ AM while sitting on 
toilet. Per report, observed by caregiver again with similar 
movements and LOC with return to baseline immediately 
afterwards. No reported incontinence.

Pt emphatically endorses that she does not have as much PO fluid 
intake as much as she should. Per granddaughter, she drinks 1+ 
glasses of wine each day.

Of note, pt at baseline is dependent in all ADLs and IADLS, 
walks with a rolling walker and can only take a few steps on her 
own. She has lost 20lb since ___. Her memory currently is 
"terrible" per granddaughter; has declined considerably in past 
___ years.

Pt has constipation at baseline and has a home bowel reg which 
helps. No recent fevers, chills, nausea, vomiting, diarrhea.

 
Past Medical History:
- Cefepime Toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- osteoarthritis  
- shingles infection in ___  
 
Social History:
___
Family History:
Mother deceased age ___, chronic obstructive pulmonary disease.  
Father deceased age ___, stroke.
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
========================
Vitals: Tm 99.1, 155/81, 107, 18 98 RA
  Orthostatic vitals ___ AM): 146/82 102 --> 96/56 107
  Orthostatic vitals ___ AM): 149/76 91 --> 100/61 91  
GENERAL: NAD, comfortable  
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM  
NECK: supple, JVP flat  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB. Breathing unlabored.
ABDOMEN: nondistended, nontender in all quadrants, no rebound or 
guarding  
EXTREMITIES: no cyanosis, clubbing, or edema. Significant ___ 
onychomycosis  
PULSES: 2+ DP pulses bilaterally
SKIN: decreased turgor in UE and ___  
NEURO: A&O to name and location (hospital). Able to answer 
questions but tangential and easily distracted. Still cannot 
give specifics about current reason for admission. 

ADMISSION PHYSICAL EXAM:
=======================
Vitals: Tm 97.9, 124/71, 101, 18 91 RA
   ___: 124/71 101 --> 81/46 109   
GENERAL: NAD, comfortable  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, JVP 5  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Dry crackles at bases b/l; CTAB otherwise. Breathing 
unlabored.
ABDOMEN: nondistended, nontender in all quadrants, no rebound or 
guarding  
EXTREMITIES: no cyanosis, clubbing, or edema. Significant ___ 
onychomycosis  
PULSES: 2+ DP pulses bilaterally
SKIN: decreased turgor in UE and ___  
NEURO: A&O to name and location (hospital). Able to answer 
questions but tangential and easily distracted. Cannot give 
specifics about current reason for admission.  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 07:41PM BLOOD WBC-6.3 RBC-3.64* Hgb-12.1 Hct-37.6 
MCV-103* MCH-33.2* MCHC-32.2 RDW-12.3 RDWSD-46.5* Plt ___
___ 06:00AM BLOOD Glucose-84 UreaN-14 Creat-0.8 Na-141 
K-4.3 Cl-101 HCO3-24 AnGap-16
___ 07:41PM BLOOD cTropnT-<0.01
___ 07:41PM BLOOD Calcium-9.9 Phos-3.8 Mg-2.0
___ 07:49PM BLOOD Lactate-1.6 K-4.4

PERTINENT LABS
--------------
___ 06:35AM BLOOD VitB12-754
___ 06:35AM BLOOD %HbA1c-5.2 eAG-103
___ 06:00AM BLOOD TSH-2.7
___ 06:00AM BLOOD Free T4-1.0
___ 09:36AM BLOOD Cortsol-11.4

___ 02:07PM URINE RBC->50 WBC->50 Bacteri-MOD* Yeast-NONE 
___ 02:07PM URINE Blood-LG* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-6.5 Leuks-MOD*

PERTINENT MICRO
---------------
___ 2:07 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.  

PERTINENT IMAGING
-----------------
T-SPINE and L-SPINE Study Date of ___ 11:30 AM
FINDINGS: 
Thoracic spine.
There is mild multilevel degenerative discogenic change with 
disc space
narrowing and endplate spurring.  No aggressive focal bone 
lesion.  No acute compression fracture is seen.  Visualized 
lungs are unremarkable.  Lower cervical spine osteoarthritis is 
incompletely assessed on this exam.
 
Lumbar spine.
There are 5 non rib-bearing lumbar type vertebral bodies.  There 
is
dextroconvex scoliosis, apex at L4-5.  There is mild rightward 
listhesis of L4 respect to L5, and leftward listhesis of L3 
respect to L4.  L3 demonstrates moderate compression deformity, 
similar to previous MRI allowing for difference in technique.  
Severe multilevel degenerative discogenic changes throughout the 
lumbar spine are most marked at L2-3, and L3-4.  Mild bilateral 
hip joint space narrowing and osteophytosis.  No erosion.  No 
concerning bone lesion.  There is vascular calcification 
involving the abdominal aorta.  There
is straightening of the lumbar spine with loss of normal 
lordosis.  There is severe lower lumbar spine facet joint 
osteoarthritis.  Asymmetric lucency of the pubic bone on the AP 
view is noted, uncertain if this is artifactual.  Tiny linear 
density at the left greater trochanter may reflect sequela of 
calcific tendinitis.
 
IMPRESSION: 
-Degenerative changes as detailed above.  Moderate compression 
deformity of L3 similar to previous MRI allowing for difference 
in technique.
-Lucency at the left pubic bone could be artifactual.  Recommend 
correlation with dedicated pelvis radiograph.

DISCHARGE LABS
---------------
___ 07:25AM BLOOD Glucose-87 UreaN-10 Creat-0.7 Na-143 
K-4.2 Cl-103 HCO3-24 AnGap-16
___ 07:25AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a lovely ___ ___ speaking lady 
with hx of HTN, C.diff colitis, chronic sterile pyuria, and 
lumbar spinal stenosis who presented after 2 witnessed episodes 
of loss of consciousness along with bilateral jerking movements 
of her arms and legs, likely orthostatic syncope ___ hypovolemia 
from poor PO intake at home. Due to concern for seizure, 
Neurology was consulted in the ED. She received a head CT which 
was negative for acute intracranial pathologies. A spot EEG was 
done which showed no focal abnormalities or epileptiform 
discharges. She was monitored on telemetry and EKGs were 
obtained which only showed non-specific ST changes. She was 
found to have orthostatic hypotension which improved with IV 
fluids, though pt still had orthostatic vitals at time of 
discharge (likely her baseline). However, pt was clinically 
well-appearing. At the time of discharge, her orthostatic vital 
signs were BP 149/76 HR 91 lying down --> BP 100/61 HR 91 
standing. Work up, including AM cortisol, B12, A1c, TFTs, and 
spinal films were largely unremarkable. PEP, cortisol and RPR 
pending on d/c. She was discharged home with instructions to 
increase her water and salt intake, wear compression stockings, 
decrease her daily alcohol intake, and ambulate/exercise as much 
as tolerated. Her duloxetine was discontinued because it can 
contribute to her orthostasis and did not seem to help 
significantly with her spinal stenosis. We arranged for home ___ 
services for 1 week to obtain daily orthostatic vital signs as 
well as home physical therapy.

Ms. ___ was otherwise continued on her home medications 
during her stay with the exception of several dietary 
supplements which were not on forumlary.

Lastly, the patient's weight at discharge was 51 kg (112 lb).

TRANSITIONAL ISSUES:
====================
- Results pending on discharge: SPEP, UPEP, RPR
- Patient was started on fludrocortisone 0.1mg QAM for 
orthostatic hypotension. Will require potassium check ~1 week 
after discharge (___), to be drawn by ___. 
- Patient has subclinical hypothyroidism and osteoporosis. She 
was previously seen by Dr. ___ at ___. 
We have scheduled her for follow-up.
- Patient would benefit from further workup for etiology of her 
orthostatic hypotension. She has been scheduled for follow-up in 
Dr. ___ clinic.
- Patient may benefit from downtitration of tramadol to reduce 
polypharmacy considering her age, frailty, cognitive impairment, 
and her reporting limited efficacy in relieving her pain.
- Patient may benefit from referral to pain clinic as 
nonsurgical treatment options for her lumbar spinal stenosis are 
limited.
- Patient complained of occasional pain on urination and 
possible genital wound. ___ benefit from gynecological 
evaluation.
- Consider formal cognitive testing (e.g. MOCA, MMSE) to 
evaluate and trend patient's reported recent cognitive decline.
- Incidental findings on imaging: Lucency at the left pubic bone 
could be artifactual. Recommend correlation
with dedicated pelvis radiograph.
- Code Status: Full (presumed) 
- CONTACT: granddaughter ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO BID 
2. Lidocaine 5% Patch 1 PTCH TD QAM 
3. Polyethylene Glycol 17 g PO DAILY 
4. lactobacillus combination ___ billion cell oral DAILY 
5. TraMADol 50 mg PO QID 
6. cranberry extract ___ mg oral BID 
7. diclofenac sodium 1 % topical QID 
8. calcium carb and citrate-vitD3 300 mg-200 unit-13.5 mg tablet 
 oral BID 
9. DULoxetine 20 mg PO DAILY 
10. Ascorbic Acid ___ mg PO BID 
11. Vitamin D 1000 UNIT PO BID 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Fludrocortisone Acetate 0.1 mg PO DAILY 
RX *fludrocortisone 0.1 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Sodium Chloride 1 gm PO TID 
RX *sodium chloride 1 gram 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO BID  
4.  Ascorbic Acid ___ mg PO BID  
5.  calcium carb and citrate-vitD3 300 mg-200 unit-13.5 mg 
tablet  oral BID  
6.  cranberry extract ___ mg oral BID  
7.  diclofenac sodium 1 % topical QID 
apply to right hip and knee  
8.  lactobacillus combination ___ billion cell oral DAILY  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Multivitamins 1 TAB PO DAILY  
11.  Polyethylene Glycol 17 g PO DAILY  
12.  TraMADol 50 mg PO QID  
13.  Vitamin D 1000 UNIT PO BID  
14. HELD- DULoxetine 20 mg PO DAILY  This medication was held. 
Do not restart DULoxetine until discussing with your PCP
15.Outpatient Lab Work
Diagnosis: 458.0 (ICD10: I95.1) Orthostatic hypotension
Labs: Chem 7
When: On ___
Please fax results to: ___ ___
16.Compression Stockings
Diagnosis: I95.1Orthostatic hypotension
Condition: Good
Length of Need: Ongoing

Please provide below-the-knee compression stockings ___ mmHg

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
syncope

SECONDARY DIAGNOSIS:
====================
sterile pyuria
lumbar spinal stenosis
cognitive impairment
hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you here at ___. 

Why was I admitted to the hospital?
- You came to us after two episodes of fainting over the past 
week.

What happened while you were at the hospital?
- You had imaging of your head which did not show any new 
injuries.
- You had an x-ray of your chest which was normal.
- You had an electrocardiogram (EKG) of your heart which was 
normal.
- You had dizziness and low blood pressure when you stood up, 
despite rehydration with IV fluid. This is a condition known as 
orthostatic hypotension. You were started on a new medication 
called fludrocortisone, started on salt tablets and given 
compression stockings and your symptoms improved.

What to do on discharge?
- Please continue to take all your medications as prescribed 
below.
- Please attend all your follow-up appointments detailed below 
(PCP, endocrine).
- Please drink at least five 8 oz. glasses of water each day. 
Drink at least 1 glass in the morning, 2 in the afternoon and 2 
in the evening.
- Please INCREASE your daily salt intake.
- Please DECREASE your daily alcohol intake.
- Please move around and exercise as much as you can as well as 
work with physical therapists who will come to your home.
- If you experience any of the danger signs below please call 
your primary care provider or come to the emergency department 
immediately.

We are happy to see you feeling better and wishing you all the 
best.

Sincerely,
Your ___ team
 
Followup Instructions:
___